US05061717
Methyl 2-(Dimethoxymethyl)pyridine-5-carboxylate
To a solution of methyl 2-formylpyridine-5-carboxylate (2.00 g, 12.1 mmol) in methanol (20 ml) and trimethyl orthoformate (5 ml) was added H2SO4 (conc., 1.5 ml). After refluxing overnight, the reaction was cooled and concentrated to a thick slurry and then poured into saturated NaHCO3 (50 ml). The latter was extracted with ether (3×30 ml) and the combined organic layers dried (MgSO4) and concentrated to afford title product (1.91 g, 75%).

reactant | methyl 2-formylpyridine-5-carboxylate | 12.1 mmol, 2.00 g | C(=O)C1=NC=C(C=C1)C(=O)OC | C8H7NO3
reactant | H2SO4 | 1.5 ml | OS(=O)(=O)O | H2O4S
reactant | trimethyl orthoformate | 5 ml | C(OC)(OC)OC | C4H10O3
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 2-(Dimethoxymethyl)pyridine-5-carboxylate | 1.91 g, 75% | COC(C1=NC=C(C=C1)C(=O)OC)OC | C10H13NO4
